US05552426
A solution of N-phenyl-o-phenylenediamine (1.84 g, 10 mmol) in diethyl ether (90 ml) was stirred at room temperature as 3,4,5-trimethoxybenzoyl chloride (2.31 g, 10 mmol) in diethyl ether (40 ml) was added dropwise. The reaction mixture was then stirred overnight at room temperature. The solvents were then removed in vacuo leaving N-[(3,4,5-trimethoxyphenyl)carbonyl]-N'-phenylphenylenediamine.

reactant | N-phenyl-o-phenylenediamine | 10 mmol, 1.84 g | C1(=CC=CC=C1)NC1=C(C=CC=C1)N | C12H12N2
reactant | 3,4,5-trimethoxybenzoyl chloride | 10 mmol, 2.31 g | COC=1C=C(C(=O)Cl)C=C(C1OC)OC | C10H11ClO4
solvent | diethyl ether | 90 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 40 ml | C(C)OCC | C4H10O
product | N-[(3,4,5-trimethoxyphenyl)carbonyl]-N'-phenylphenylenediamine | COC=1C=C(C=C(C1OC)OC)C(=O)NC1=C(C=CC=C1)NC1=CC=CC=C1 | C22H22N2O4
